US04705853
2-[2-(1-Azetidinyl)ethyl]-7-chloro-2,3-dihydro-4,8-dimethylpyrido[3,2-f]-1,4-oxazepine-5(4H)-thione oxalate hydrate [1:1:0.5]
To a solution of 3.0 g (0.01 mole) of 7-chloro-2-(2-chloroethyl)-2,3-dihydro-4,8-dimethylpyrido[3,2-f]-1,4-oxazepine-5(4H)-thione in 20 ml of dimethylsulfoxide was added ~5 g of sodium carbonate and 1.40 g (0.0245 mole) of azetidine. The reaction mixture was stirred for 2 days at room temperature and 0.3 g (0.005 mole) of azetidine was added and stirring continued for 3 days. The reaction mixture was poured in 300 ml of water. The aqueous mixture was extracted with 2×100 ml of benzene. The combined benzene extracts were washed with 3×75 ml of water, dried over sodium sulfate, filtered, and concentrated by rotary evaporation at 50° C. The residue was treated with oxalic acid in isopropyl alcohol which gave 3.5 g (82%) of yellow analytically pure crystals, m.p. 162°-66° C. with decomposition.

reactant | 7-chloro-2-(2-chloroethyl)-2,3-dihydro-4,8-dimethylpyrido[3,2-f]-1,4-oxazepine-5(4H)-thione | 0.01 mole, 3.0 g | ClC1=CC=2C(N(CC(OC2N=C1C)CCCl)C)=S | C12H14Cl2N2OS
reactant | sodium carbonate | ~5 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | azetidine | 0.0245 mole, 1.40 g | N1CCC1 | C3H7N
reactant | azetidine | 0.005 mole, 0.3 g | N1CCC1 | C3H7N
reactant | dimethylsulfoxide | 20 ml | CS(=O)C | C2H6OS
solvent | water | 300 ml | O | H2O
product | 2-[2-(1-Azetidinyl)ethyl]-7-chloro-2,3-dihydro-4,8-dimethylpyrido[3,2-f]-1,4-oxazepine-5(4H)-thione oxalate hydrate | O.C(C(=O)O)(=O)O.N1(CCC1)CCC1OC2=C(C(N(C1)C)=S)C=C(C(=N2)C)Cl | InChI=1S/C15H20ClN3OS.C2H2O4.H2O/c1-10-13(16)8-12-14(17-10)20-11(9-18(2)15(12)21)4-7-19-5-3-6-19;3-1(4)2(5)6;/h8,11H,3-7,9H2,1-2H3;(H,3,4)(H,5,6);1H2
